US08871819B2
Synthesis of Decaglycerol Dodecyldodecanoate (Method II)
Into a 250 mL vessel, decaglycerol (5.0 g, 6.59 mmol) was added and dissolved into anhydrous THF (50 mL). Dodecanoic acid (15.84 g, 79.07 mmol) was also dissolved into the reaction mixture which was stirred magnetically at room temperature for one hour to fully dissolve the reagents. N,N-dimethylaminopyridine (0.081 g, 0.66 mmol) and N-hydroxysuccinimide (0.076 g, 0.66 mmol) were both dissolved in the solution. When the catalysts were fully dissolved, N,N-diisopropylcarbodiimide (12.33 mL, 79.73 mmol) was pipetted into the vessel and was sealed to keep the reaction dry. The reaction proceeded overnight at 55° C. The solution was stripped of THF via rotoevaporation and redissolved into chloroform. The organic layer was washed 2× with sodium bicarbonate buffer and 2× with deionized water to remove unreacted starting materials. The chloroform was removed to yield a white waxy precipitate. NMR analysis supported full conversion of hydroxyl groups to the dodecanoic esters.

reactant | decaglycerol | 6.59 mmol, 5.0 g | C(C(COCC(COCC(COCC(COCC(COCC(COCC(COCC(COCC(COCC(CO)O)O)O)O)O)O)O)O)O)O)O | C30H62O21
reactant | Dodecanoic acid | 79.07 mmol, 15.84 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | N-hydroxysuccinimide | 0.66 mmol, 0.076 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-diisopropylcarbodiimide | 79.73 mmol, 12.33 mL | CC(C)N=C=NC(C)C | C7H14N2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | Decaglycerol Dodecyldodecanoate | C(CCCCCCCCCCC)C(C(=O)O)CCCCCCCCCC.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO | InChI=1S/C24H48O2.10C3H8O3/c1-3-5-7-9-11-13-14-16-18-20-22-23(24(25)26)21-19-17-15-12-10-8-6-4-2;10*4-1-3(6)2-5/h23H,3-22H2,1-2H3,(H,25,26);10*3-6H,1-2H2
